US08097628B2
To a solution of methyl 6-chloro-5-methyl-3-pyridinecarboxylate (84 mg, 0.453 mmol) in DCM (2 ml), DIBAL-H (1.5 M solution in toluene, 0.905 ml, 1.358 mmol) was added dropwise under N2 at −78° C. The reaction mixture was allowed to attain rt and stirred overnight. After 18 h, TLC showed no starting material. The reaction was quenched by addition of sodium-potassium tartrate saturated solution, extracted with DCM, dried, filtered, and concentrated to afford (6-chloro-5-methyl-3-pyridinyl)methanol (63 mg, 0.400 mmol, 88% yield) pure enough to be used in the next step.

reactant | methyl 6-chloro-5-methyl-3-pyridinecarboxylate | 0.453 mmol, 84 mg | ClC1=C(C=C(C=N1)C(=O)OC)C | C8H8ClNO2
reactant | DIBAL-H | 1.358 mmol, 1.5 M, 0.905 ml | CC(C)C[AlH]CC(C)C
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | (6-chloro-5-methyl-3-pyridinyl)methanol | 0.400 mmol, 63 mg, 88% yield | ClC1=C(C=C(C=N1)CO)C | C7H8ClNO
